US04954498
8,8-Dimethyl-2-[4-(lH-imidazol-1-yl)-phenyl]-5,6,7,8-tetrahydro-lH-imidazo[4,5-g]quinolin-6-one
2 g. (9.7 mmole) 4,4-dimethyl-6,7-diamino-1,2,3,4-tetrahydroquinolin-2-one (see Example 13 a)), 1.67 g. (9.7 mmole) 4-(lH-imidazol-1-yl)-benzaldehyde, 0.17 g. p-toluenesulphonic acid and 120 ml. ethanol were mixed together and heated under reflux for 3 hours while passing through air. The evaporation residue was suspended in water, neutralised with 2N aqueous ammonia and recrystallised from methanol to give 1.7 g. (49% of theory) of the title compound; m.p. >300° C. EXAMPLE 19

reactant | 4,4-dimethyl-6,7-diamino-1,2,3,4-tetrahydroquinolin-2-one | 9.7 mmole | CC1(CC(NC2=CC(=C(C=C12)N)N)=O)C | C11H15N3O
reactant | 4-(lH-imidazol-1-yl)-benzaldehyde | 9.7 mmole | N1(C=NC=C1)C1=CC=C(C=O)C=C1 | C10H8N2O
reactant | p-toluenesulphonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | ammonia | 2N | N | H3N
solvent | water | O | H2O
solvent | ethanol | C(C)O | C2H6O
product | 8,8-Dimethyl-2-[4-(lH-imidazol-1-yl)-phenyl]-5,6,7,8-tetrahydro-lH-imidazo[4,5-g]quinolin-6-one | CC1(CC(NC=2C=C3C(=CC12)NC(=N3)C3=CC=C(C=C3)N3C=NC=C3)=O)C | C21H19N5O
